US05464865
A mixture of 6-chloropyridine-3-carboxamide (14 g), phosphorous oxychloride (35 ml) and chloroform (120 ml) is refluxed for 2 hr, cooled, and concentrated. The residue is stirred with water and the resulting precipitate is collected and recrystallized from ethanol to provide 10.3 g (83 %) of 6-chloropyridine-3-carbonitrile. This nitrile (2.77 g) is added to a solution of sodium octanolate (prepared from 1-octanol (2.78 g) and sodium hydride (0.88g of 60% dispersion) in DMF (20 ml)). After 30 min at room temperature, the mixture is poured into water, and the product extracted with ether. The extracts are concentrated and chromatographed with 2:3 hexane-dichloromethane, to provide 6-(octyloxy)pyridine-3-carbonitrile as a colorless oil (3.7 g, 80%). This nitrile is dissolved in toluene (15 ml), cooled to -20°, and diisobutylaluminum hydride (12.5 ml of 1.5M solution in toluene) is added dropwise. After an hour, the mixture is poured into 1.0N hydrochloric acid and the product extracted with ether. The extracts are dried, filtered, and concentrated to leave 6-(octyloxy)pyridine-3-carboxaldehyde (2.36 g) as a yellow oil.

reactant | 6-chloropyridine-3-carboxamide | 14 g | ClC1=CC=C(C=N1)C(=O)N | C6H5ClN2O
reactant | phosphorous oxychloride | 35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-chloropyridine-3-carbonitrile | 10.3 g, 83 % | ClC1=CC=C(C=N1)C#N | C6H3ClN2
